US07396846B2
4-Methanesulfonyl-phenylmethanesulfonyl chloride (10.7 g, 40 mmol) in 100 ml dry tetrahydrofuran was added to a solution of ethynylcyclohexylamine (4.93 g, 40 mmol) and triethylamine (6.13 ml, 44 mmol) in dry tetrahydrofuran (100 ml) at 0-5° C. Then the mixture was stirred for 1 hour at room temperature, poured into 0.05 N hydrochloric acid and stirred again. The precipitate was filtered off, washed with water and dried to yield N-(1-ethynylcyclohexyl)-4-methanesulfonyl-phenylmethane sulfonamide (11.7 g, 82%) as a solid. 1H-NMR (CDCl3) δ 7.93 (d, 2 H), 7.65 (d, 2 H), 4.61 (s, 2 H), 4.32 (s, 1 H), 2.75 (s, 1 H), 3.05 (s, 3 H), 2.15 (m, 2 H), 1.63 (m, 7 H), 1.27 (m, 1 H); MS (IS): 354.1 [M−H]−.

reactant | 4-Methanesulfonyl-phenylmethanesulfonyl chloride | 40 mmol, 10.7 g | CS(=O)(=O)C1=CC=C(C=C1)CS(=O)(=O)Cl | C8H9ClO4S2
reactant | ethynylcyclohexylamine | 40 mmol, 4.93 g | C(#C)NC1CCCCC1 | C8H13N
reactant | triethylamine | 44 mmol, 6.13 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.05 N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(1-ethynylcyclohexyl)-4-methanesulfonyl-phenylmethane sulfonamide | 11.7 g, 82% | C(#C)C1(CCCCC1)NS(=O)(=O)CC1=CC=C(C=C1)S(=O)(=O)C | C16H21NO4S2
